US03992400
In the manner given in Preparation 11, 2-amino-5-(trifluoromethyl)benzophenone is refluxed with potassium hydroxide in diethylene glyclol to give 4-(trifluoromethyl)-α-phenyl-o-toluidine.

reactant | 2-amino-5-(trifluoromethyl)benzophenone | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F | C14H10F3NO
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(trifluoromethyl)-α-phenyl-o-toluidine | FC(C=1C=C(C(N)=CC1)CC1=CC=CC=C1)(F)F | C14H12F3N
